US08278290B2
d) Preparation of 2-(1,2,4-triazol-1-yl)-7-hydroxy-3-(3,4,5-trimethoxybenzoyl)-6-methoxy-benzo[b]furan (Entry 43, Table 1)
To a solution of 1,2,4-triazole(22 mg, 0.32 mmol) in dry tetrahydrofuran (2 mL) was added sodium hydride (60%, 24 mg, 0.60 mmol) and resulting suspension was treated with a solution of 2-bromo-7-acetoxy-3-(3,4,5-trimethoxybenzoyl)-6-methoxy-benzo[b]furan (50 mg, 0.10 mmol) in dry toluene (2 mL). The mixture was stirred at reflux for 6 hours (tlc), quenched with saturated ammonium chloride solution, extracted with dichloromethane (10 mL), dried over magnesium sulphate and the solvent distilled under vacuum. The crude residue was purified by PTLC (eluent=ethyl acetate: 1% triethylamine) to give the title compound as a yellow solid; (22 mg, 50%); 1H NMR (300 MHz, CDCl3) δ 8.64(bs, 1H), 8.06(bs, 1H), 7.10(d, 1H, J=8.60 Hz), 7.05(s, 2H, benzoyl Hs), 6.98(d, 1H, J=8.65 Hz), 3.98(s, 3H, OMe), 3.89(s, 3H, OMe), 3.77(s, 6H, 2×OMe).

reactant | 1,2,4-triazole | 0.32 mmol, 22 mg | N1N=CN=C1 | C2H3N3
reactant | sodium hydride | 0.60 mmol, 24 mg | [H-].[Na+]
reactant | 2-bromo-7-acetoxy-3-(3,4,5-trimethoxybenzoyl)-6-methoxy-benzo[b]furan | 0.10 mmol, 50 mg | BrC1=C(C2=C(O1)C(=C(C=C2)OC)OC(C)=O)C(C2=CC(=C(C(=C2)OC)OC)OC)=O | C21H19BrO8
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(1,2,4-triazol-1-yl)-7-hydroxy-3-(3,4,5-trimethoxybenzoyl)-6-methoxy-benzo[b]furan | N1(N=CN=C1)C1=C(C2=C(O1)C(=C(C=C2)OC)O)C(C2=CC(=C(C(=C2)OC)OC)OC)=O | C21H19N3O7
